* C:\Users\lucas\Desktop\FIUBA\DCE\DCE\simulaciones\500ma\modelo_1_1\buck_int.asc
M§Q1 IN N006 N008 N008 Si7850DP
M§Q2 N008 N012 0 0 Si7850DP
V1 N001 0 5
V2 IN 0 PULSE(12 36 3m 1n 1n 5 5 1)
L1 N008 OUT 80µ
C1 OUT 0 20µ Rser=10m
R1 N009 0 12K
R2 N002 0 30K
R3 N005 N004 10K
C2 N004 N007 1n
C3 N011 0 1n
C4 N003 N008 100n
D1 0 N008 1N5817
C5 N005 N007 470p
D2 N001 N003 1N5817
XU1 N001 N002 N005 N007 N009 0 N011 0 0 N012 N001 N010 N008 N006 N003 IN LTC3703-5
R4 N007 OUT 100k
C6 OUT N007 2.2n Rser=100
R5 N007 0 14.4k
C7 N001 0 22µ
R6 N001 N010 10
Rload OUT 0 2
V3 VRef 0 6.35
.model D D
.lib C:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4m startup
* Preset regulable
.lib LTC3703-5.sub
.backanno
.end
